US07572814B2
To a stirred solution of crude 2-((dimethylamino)methyl)-3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-4-methylenepentane-1,5-dione (91 g, 186 mmol) in acetonitrile (769 mL) was added diisopropylethylamine (65 mL, 376 mmol) followed by iodomethane (140 mL, 2.24 mol). The mixture was stirred at room temperature for 16 h. To this mixture was added 2 M KOH (307 mL, 614 mmol), and the temperature was raised to 75° C. for 16 h. The mixture was partitioned between dichloromethane and water. The layers were separated and the aqueous phase extracted with 500 mL dichloromethane. The combined organic layers were dried over MgSO4, filtered, and evaporated to dryness. The residue was treated with 350 mL ether, isolated by filtration, and washed with 2×100 mL of ether. The ether layers were concentrated in vacuum to give 3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-2,4-dimethylenepentane-1,5-dione (63.8 g, 77% yield), (characterized by LCMS and 1H NMR). LRMS (M+H+) m/z=445.3.

reactant | 2-((dimethylamino)methyl)-3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-4-methylenepentane-1,5-dione | 186 mmol, 91 g | CN(C)CC(C(=O)C1=CC(=CC=C1)OC)C(C(C(=O)C1=CC(=CC=C1)OC)=C)C1=C(C(=CC=C1)F)C | C30H32FNO4
reactant | diisopropylethylamine | 376 mmol, 65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | iodomethane | 2.24 mol, 140 mL | IC | CH3I
reactant | KOH | 614 mmol, 2 M, 307 mL | [OH-].[K+]
solvent | acetonitrile | 769 mL | C(C)#N | C2H3N
product | 3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-2,4-dimethylenepentane-1,5-dione | 63.8 g, 77% yield | FC=1C(=C(C=CC1)C(C(C(=O)C1=CC(=CC=C1)OC)=C)C(C(=O)C1=CC(=CC=C1)OC)=C)C | C28H25FO4
